US08895566B2
TFA (77 μL, 1.0 mmol) was added to a solution of tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidine-1-carboxylate (13 mg, 0.04 mmol) in DCM (1 mL). The mixture was stirred at room temperature for 1 hour and concentrated to give (5R,7R)-5-methyl-4-(piperidin-4-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol as an oil, which was used further without purification.

reactant | TFA | 1.0 mmol, 77 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidine-1-carboxylate | 0.04 mmol, 13 mg | O[C@@H]1C[C@H](C2=C1N=CN=C2C2CCN(CC2)C(=O)OC(C)(C)C)C | C18H27N3O3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (5R,7R)-5-methyl-4-(piperidin-4-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol | C[C@@H]1C[C@H](C=2N=CN=C(C21)C2CCNCC2)O | C13H19N3O
